US04952587
(a) Methyl-2-t-butyloxycarbonyl-2-azabicyclo[2.2.2]octane-6-carboxylate
Di-t-butyldicarbonate (21.8 g), in dry CH2Cl2 (50 ml) was added dropwise to a stirred, cooled (0° C.) solution of methyl 2-azabicyclo[2.2.2]octane-6-carboxylate (18.2 g), (a mixture of endo and exo isomers, prepared as described in Example 21A, EP No. 0239309) in dry CH2Cl2 (100 ml). The resulting solution was stirred at room temperature for 4 hours, water (100 ml) was added and the mixture was stirred for 15 minutes. The organic layer was separated and washed with 0.5M hydrochloric acid (100 ml), water (100 ml), saturated NaHCO3 solution (100 ml) then dried over Na2SO2 and evaporated to dryness. The residue was purified by column chromatography on silica by elution with ethyl acetate/petroleum ether (60-80) [1:40] to give Isomer A as a colourless oil which crystallised on standing (12.0 g), m.p. 44°-45° C. Rf=0.35 in ethyl acetate/petroleum ether (60-80) [1:1] on silica. Found: C, 62.59; H, 8.55; N, 5.10; C14H23NO4 requires C, 62.43; H, 8.61; N, 5.20%; νmax (film) 1740 and 1695 cm-1 (C=O); δH (360 MHz, CDCl3) 1.47 (9H, s, C(CH3)3); 1.55-2.20 (7H, m, 3×CH2, CH), 2.86-3.00 (1H, m, --CH--), 3.30 (2H, brs, CH2N), 3.69 and 3.72 (total 3H, 2×brs, CO3CH3, rotamers), 4.21 and 4.38 (total 1H, 2×brs, CHN, rotamers). Mixed fractions were collected (1:1 mixture, 4.80 g) followed by Isomer B as a colourless oil (6.8 g). Rf=0.32 in ethyl acetate/petroleum ether (60-80) [1:1] on silica; δH (360 MHz, CDCl3) 1.42 and 1.43 (total 9H, 2×s, C(CH3)3, rotamers), 1.52-2.20 (7H, m, 3×CH2, CH), 2.63-2.73 (1H, m, --CH--), 3.19-3.25 (1H, m, CHHN), 3.36-3.42 (1H, m, CHHN), 3.66 and 3.69 (total 3H, 2×s, CO2CH3, rotamers), 4.27-4.30 and 4.36-4.38 (total 1H, 2×m, CHN, rotamers); m/z 269 (M+).

reactant | Di-t-butyldicarbonate | 21.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | methyl 2-azabicyclo[2.2.2]octane-6-carboxylate | 18.2 g | C12NCC(CC1C(=O)OC)CC2 | C9H15NO2
reactant | water | 100 ml | O | H2O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | Methyl-2-t-butyloxycarbonyl-2-azabicyclo[2.2.2]octane-6-carboxylate | COC(=O)C1CC2CN(C1CC2)C(=O)OC(C)(C)C | C14H23NO4
